US04214089
3-(p-Chlorophenyl)-Thiazolo[3,2-a]Benzimidazole-2-Acetic Acid
3-(p-Chlorophenyl)-2,3-dihydro-3-hydroxythiazolo[3,2-a]-benzimidazole-2-acetic acid, (5.0 g.) is suspended in a solution of 100 ml. of a 6 N NCl and 200 ml. of dioxane. The mixture is heated at reflux for 18 hours. The solution is concentrated in vacuo to 50 ml. To the concentrate is added 200 ml. of water, and sufficient 4 N NaOH solution to dissolve all the solids. The alkaline solution is made acidic with acetic acid. The solid is collected, washed well with water and air-dried. The crude material is recrystallized from dimethoxyethane. The product (2.0 g.) melts at 242°-243° C.

reactant | 3-(p-Chlorophenyl)-2,3-dihydro-3-hydroxythiazolo[3,2-a]-benzimidazole-2-acetic acid | ClC1=CC=C(C=C1)C1(C(SC2=NC3=C(N21)C=CC=C3)CC(=O)O)O | C17H13ClN2O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(p-Chlorophenyl)-Thiazolo[3,2-a]Benzimidazole-2-Acetic Acid | ClC1=CC=C(C=C1)C1=C(SC2=NC3=C(N21)C=CC=C3)CC(=O)O | C17H11ClN2O2S
